US04845226
Preparation of 8-bromomethyl-7-chloro-3-methylquinoline
9.6 g of 7-chloro-3,8-dimethylquinoline are dissolved in 850 g of 1,2-dichlorobenzene, 6.2 g of sodium acetate, dissolved in 150 ml of water, and then 8 g of bromine are added, and the mixture is exposed to a 150 watt low pressure mercury lamp for from 5 to 6 hours at 15° C. The yield, determined chromatographically, is 80% of theory, based on converted dimethylquinoline. The selectivity of the reaction is 88% at a conversion of 91%. Table 1 sumarizes the result of varying the reaction conditions.

reactant | 7-chloro-3,8-dimethylquinoline | 9.6 g | ClC1=CC=C2C=C(C=NC2=C1C)C | C11H10ClN
reactant | sodium acetate | 6.2 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 8 g | BrBr | Br2
reactant | dimethylquinoline | CC=1C(=NC2=CC=CC=C2C1)C | C11H11N
solvent | 1,2-dichlorobenzene | 850 g | ClC1=C(C=CC=C1)Cl | C6H4Cl2
solvent | water | 150 ml | O | H2O
product | 8-bromomethyl-7-chloro-3-methylquinoline | BrCC=1C(=CC=C2C=C(C=NC12)C)Cl | C11H9BrClN
